US07652049B2
trans-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one (racemic)
To a solution of 0.036 g of trans-5-[2-iodo-5-(trifluoromethyl)phenyl]4-methyl-1,3-oxazolidin-2-one, 0.024 g of (5-isopropyl-2-methoxyphenyl)boronic acid, and 0.04 g of potassium carbonate in 2 mL of acetone and 0.5 mL of water was added ca. 2 mg of palladium acetate. The mixture was heated to reflux and stirred at this temperature for 1.5 h. Acetone was removed by rotary evaporation and the residue was diluted with 10 mL of EtOAc and 10 mL of water. The aqueous phase was extracted with 10 mL of EtOAc. The combined organics were washed with 10 mL of brine, dried over Na2SO4, and concentrated. The residue was purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 CV of 10% EtOAc in hexanes, followed by a linear gradient of EtOAc in hexanes from 10 to 100% over 10 CV to provide the title compound. Mass spectrum (ESI) 394.2 (M+1). 1H NMR signals are doubled because of atropoisomerism. 1H NMR (500 MHz, CDCl3): δ 7.80, 7.78 (s, 1H), 7.64, 7.63 (d, J=8 Hz, 1H), 7.35 (d, J=7.5 Hz, 1H), 7.27, 7.26 (d, J=8 Hz 1H), 7.00, 6.95 (d, J=2.5 Hz, 1H), 6.93, 6.92 (d, J=8 Hz, 1H), 5.87, 5.81 (s, 1H), 5.16, 5.10 (d, J=5 Hz, 1H), 3.70-3.78 (m, 3.5H), 3.49 (m, 0.5H), 2.89 (m, 1H), 1.24 (m, 6H), 0.90, 0.70 (d, J=6.5 Hz, 3H).

reactant | trans-5-[2-iodo-5-(trifluoromethyl)phenyl]4-methyl-1,3-oxazolidin-2-one | 0.036 g | IC1=C(C=C(C=C1)C(F)(F)F)[C@H]1[C@@H](NC(O1)=O)C | C11H9F3INO2
reactant | (5-isopropyl-2-methoxyphenyl)boronic acid | 0.024 g | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
reactant | potassium carbonate | 0.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 0.5 mL | O | H2O
catalyst | palladium acetate | ca. 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trans-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)[C@H]1[C@@H](NC(O1)=O)C)OC | C21H22F3NO3
